US07858640B2
N-(2-chloro-5-hydroxyphenyl)-2-(4-methanesulfonylbenzyl)-3-oxo-butyramide
Silver trifluoroacetate (1.3 g) was added in two portions over 20 minutes to a stirred solution of 3-amino-4-chlorophenol (0.5 g) and 2-(4-methanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl ester (0.8 g) in 1,2-dimethoxyethane (10 mL) at room temperature. The mixture was stirred at room temperature for 15 hours and then filtered through hyflo, washing with 1,2-dimethoxyethane. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of dichloromethane and ethyl acetate (1:0 to 0:1 by volume) gave title compound as a pale peach solid, 0.75 g.

reactant | 3-amino-4-chlorophenol | 0.5 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | 2-(4-methanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl ester | 0.8 g | C(C)(C)(C)SC(C(C(C)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C16H22O4S2
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
catalyst | Silver trifluoroacetate | 1.3 g | FC(C(=O)[O-])(F)F.[Ag+]
product | N-(2-chloro-5-hydroxyphenyl)-2-(4-methanesulfonylbenzyl)-3-oxo-butyramide | ClC1=C(C=C(C=C1)O)NC(C(C(C)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C18H18ClNO5S
